US06307066B1
A mixture of simvastatin phenylboronate (5.22 g, 0.010 mol), toluene (31 mL), and neopentyl glycol (1.11 g, 0.0107 mol) was heated under a nitrogen atmosphere at 77 to 79° C. for 1 hour and 40 minutes. The solution was concentrated under reduced pressure at a bath temperature of 60° C. to a final volume of 5 mL and n-heptane (160 mL) was added at a temperature of 50-60° C. The crude simvastatin was filtered and washed with heptane to provide 3.17 g (76%) of simvastatin. By appropriate manipulation of the conditions and reagents, compounds such as the compactin analogue of simvastatin may be prepared.

reactant | simvastatin phenylboronate | 0.010 mol, 5.22 g | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C.C1(=CC=CC=C1)B([O-])[O-]
reactant | neopentyl glycol | 0.0107 mol, 1.11 g | OCC(C)(CO)C | C5H12O2
solvent | toluene | 31 mL | C1(=CC=CC=C1)C | C7H8
product | simvastatin | 3.17 g, 76% | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C25H38O5
